US06982348B2
While stirring a solution of powdery magnesium (3.33 g, 137 mmol) and iodine (one crumb) in tetrahydrofuran (10 ml), a solution of 3-isopropylbromobenzene (10.91 g, 54.80 mmol) and 1,2-dibromoethane (10.3 g, 54.8 mmol) in tetrahydrofuran (100 ml) was dropwise added slowly. After completion of the dropwise addition, the mixture was stirred at 70° C. for 1 hr. The reaction solution was cooled to −78° C., and pulverized dry ice (10 g) was carefully added. The reaction solution was gradually warmed to room temperature with stirring. The reaction solution was diluted with water, acidified with conc. hydrochloric acid, and extracted twice with ethyl acetate. The solvent of the recovered organic layer was evaporated under reduced pressure to give a crude product of 3-isopropylbenzoic acid as a yellow liquid.

reactant | magnesium | 137 mmol, 3.33 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 3-isopropylbromobenzene | 54.80 mmol, 10.91 g | C(C)(C)C=1C=C(C=CC1)Br | C9H11Br
reactant | 1,2-dibromoethane | 54.8 mmol, 10.3 g | BrCCBr | C2H4Br2
reactant | dry ice | 10 g | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3-isopropylbenzoic acid | C(C)(C)C=1C=C(C(=O)O)C=CC1 | C10H12O2
